US08486967B2
b) Methyl 2-(2-chloro-4-fluorophenyl)-3-(oxiran-2-yl)propanoate
To an ice-cold solution of methyl 2-(2-chloro-4-fluorophenyl)pent-4-enoate (6.0 g, 24.7 mmol) in methylene chloride (50 mL) was added meta-chloroperbenzoic acid (6.7 g, 70% purity, 27.2 mmol). The cooling bath removed and the reaction stirred for 16 hours. The reaction was filtered, the filtrate washed repeatedly with 1 N sodium hydroxide, dried with sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel using n-heptane/ethyl acetate (v/v 1:9 to 2:8) as eluent. The title compound was obtained as a colourless liquid (5.1 g, 80%).

reactant | methyl 2-(2-chloro-4-fluorophenyl)pent-4-enoate | 24.7 mmol, 6.0 g | ClC1=C(C=CC(=C1)F)C(C(=O)OC)CC=C | C12H12ClFO2
reactant | meta-chloroperbenzoic acid | 27.2 mmol, 6.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-chloro-4-fluorophenyl)-3-(oxiran-2-yl)propanoate | ClC1=C(C=CC(=C1)F)C(C(=O)OC)CC1OC1 | C12H12ClFO3
